US07718797B2
Fasudil-hydrochloride ½ hydrate (3.08 g) and sodium chloride (0.8 g, manufactured by Wako Pure Chemical Industries, Ltd.) were dissolved in water (80 ml). After adjusting the pH of all solutions to 1, 2, 3, 4, 5, 6, 7, 7.5, 8, and 9 by addition of a diluted hydrochloric acid or sodium hydroxide reagent solution, the volume of each solution was adjusted to 100 ml by addition of water. The fasudil hydrochloride aqueous solutions were aseptically filtered and 2 ml of the filtrates were filled in transparent and colorless glass ampoules (2 ml (manufactured by Namicos Corp.)). The ampoules were melt-sealed to obtain fasudil-containing preparations with the pH of 1-9 (hereinafter referred to as “fasudil hydrochloride-containing preparations”).

reactant | Fasudil hydrochloride | 3.08 g | C=1C=C2C=NC=CC2=C(C1)S(=O)(=O)N3CCCNCC3.Cl
reactant | sodium chloride | 0.8 g | [Cl-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 80 ml | O | H2O
product | fasudil | C=1C=C2C=NC=CC2=C(C1)S(=O)(=O)N3CCCNCC3 | C14H17N3O2S
